US04220647
A mixture of 1-(N-benzyloxycarbonyl-N-isopropylaminomethyl)-7,8-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.1 g), acetic acid (11 ml) and conc. hydrochloric acid (11 ml) was refluxed for 1.5 hours. The reaction mixture was concentrated to dryness under reduced pressure and the residue was washed with acetone, followed by recrystallization from a mixture of methanol and ether to give 1-(N-isopropylaminomethyl)-7,8-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride, colorless crystals, mp 255° to 258° C.

reactant | 1-(N-benzyloxycarbonyl-N-isopropylaminomethyl)-7,8-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.1 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C(C)C)CC1NCCC2=CC=C(C(=C12)O)O
reactant | hydrochloric acid | 11 ml | Cl | ClH
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
product | 1-(N-isopropylaminomethyl)-7,8-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride | Cl.Cl.C(C)(C)NCC1NCCC2=CC=C(C(=C12)O)O | InChI=1S/C13H20N2O2.2ClH/c1-8(2)15-7-10-12-9(5-6-14-10)3-4-11(16)13(12)17;;/h3-4,8,10,14-17H,5-7H2,1-2H3;2*1H
